US04758670
20.0 g of 1-fluoro-1-(1H-1,2,4-triazol-1-yl)-3,3-dimethyl-2-butanone are added dropwise to a solution of 13.5 g of potassium tertiary butylate in 100 ml of tetrahydrofuran. After the mixture has been stirred for 0.5 hour, 15.6 g of methyl iodide are added dropwise and the mixture is stirred for 18 hours at 60° C. After cooling, the reaction mixture is taken up in ice water and extracted with ethyl acetate. The combined organic phases are washed with water and saturated sodium chloride solution, dried over sodium sulfate and evaporated. Distillation of the oily residue gives 14.0 g of 2-fluoro-2-(1H-1,2,4-triazol-1-yl)-4,4-dimethyl-3-pentanone, boiling point 48°-50° C./0.013 mbar.

reactant | 1-fluoro-1-(1H-1,2,4-triazol-1-yl)-3,3-dimethyl-2-butanone | 20.0 g | FC(C(C(C)(C)C)=O)N1N=CN=C1 | C8H12FN3O
reactant | methyl iodide | 15.6 g | CI | CH3I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-fluoro-2-(1H-1,2,4-triazol-1-yl)-4,4-dimethyl-3-pentanone | 14.0 g | FC(C)(C(C(C)(C)C)=O)N1N=CN=C1 | C9H14FN3O
